US08114867B2
90.i. 6-fluoro-quinoline-5-carbaldehyde
To a solution of DIPA (1.1 mL, 7.75 mmol)) in THF (820 mL) cooled to −78° C., was added n-BuLi (2.5N in hexanes, 3 mL). The mixture was stirred 5 minutes at this temperature and was warmed in an ice-bath. After 10 min, the mixture was cooled down to −78° C. and a solution of 3-fluoro-6-methoxy-quinoline (see WO 2005/054232; 0.95 g, 6.46 mmol) in THF (8+2 mL rinse) was added. The reaction proceeded for 4 h. DMF (0.75 mL, 9.68 mmol) was added. The mixture was stirred 30 min at −78° C. The mixture was warmed to rt, stirred further 30 min and water (20 mL) was added. The two layers were decanted. The aq. layer was extracted with EA (2×50 mL). The combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was chromatographed (Hept-EA 1-1) to afford first the starting material and then the expected aldehyde (0.17 g) as a 2-1 mixture with its regioisomer.

reactant | n-BuLi | 2.5N, 3 mL | [Li]CCCC
reactant | 3-fluoro-6-methoxy-quinoline | 6.46 mmol, 0.95 g | FC=1C=NC2=CC=C(C=C2C1)OC | C10H8FNO
reactant | DMF | 9.68 mmol, 0.75 mL | CN(C)C=O | C3H7NO
reactant | water | 20 mL | O | H2O
reactant | THF | 820 mL | C1CCOC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-fluoro-quinoline-5-carbaldehyde | FC1=C(C=2C=CC=NC2C=C1)C=O | C10H6FNO
